US04851387
3.89 g of (4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-5-(2-hydroxyethyl)-4-isobutyloxazolidine was dissolved in 15 ml of pyridine, and 2.65 g of p-toluenesulfonyl chloride was added and dissolved therein. The mixture was then reacted at room temperature overnight. The reaction solution thus obtained was concentrated, and precipitated insolubles were filtered off. The filtrate thus obtained was purified by silica gel column chromatography (developer: benzene/ethyl acetate (30/1)) to obtain 4.47 g of (4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-5-(2-p-toluenesulfonyloxyethyl)-4-isobutyloxazolidine as a syrup.

reactant | (4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-5-(2-hydroxyethyl)-4-isobutyloxazolidine | 3.89 g | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)CCO)(C)C | C19H29NO4
reactant | p-toluenesulfonyl chloride | 2.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (4S,5S)-3-benzyloxycarbonyl-2,2-dimethyl-5-(2-p-toluenesulfonyloxyethyl)-4-isobutyloxazolidine | 4.47 g | C(C1=CC=CC=C1)OC(=O)N1C(O[C@H]([C@@H]1CC(C)C)CCOS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C26H35NO6S
